US04501864
Preparation of Dihydrobenzoxazine 5
To a suitably equipped glass resin reactor equipped with stirrer are charged 228 parts of Bisphenol A, 240 parts toluene and 130.0 parts of monoethanolamine. The slurry is warmed and stirred to form a uniform solution. An inert nitrogen atmosphere is maintained over the reaction mixture. The temperature of the reaction mixture is adjusted to 50° C. and 256 parts of 50% formalin are added slowly, while the temperature is maintained at 50°-55° C. After formalin addition is complete the batch is refluxed at 70° C. for 3 hours under reduced pressure. The stirring is stopped and the reaction mixture is allowed to separate into two layers. The top water layer (175 parts) is removed. The remaining organic bottom layer is heated with the gradual application of vacuum to remove remaining solvent and other volatiles. When the temperature reaches 110° C. at a pressure of 3.5 kPa, the fluid resin is poured from the reactor and allowed to solidify. The resulting yellow product has a dihydrobenzoxazine ring content of 63%, a calculated equivalent weight of 316, and a softening point of 88° C. A solution of the resin dissolved in methyl ethyl ketone solvent is observed to gel after 1 month storage at room temperature. A sample in solid form shows no compositional change after 1 year at room temperature.

reactant | Bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | monoethanolamine | C(O)CN | C2H7NO
reactant | formalin | C=O | CH2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Dihydrobenzoxazine | O1NCCC2=C1C=CC=C2 | C8H9NO
